US07897766B2
Benzo[b]thiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and thianaphthene-2-carboxylic acid (Aldrich) according to methods A and C; yield 55 mg, 0.16 mmol (50%): 1H NMR (300 MHz, methanol-d4) δ 2.08-2.29 (m, 5H), 2.49 (s, 2H), 3.50 (d, J=13 Hz, 2H), 3.56 (s, 2H), 3.85 (d, J=13 Hz, 2H), 4.28 (t, J=3 Hz, 1H), 7.38-7.50 (m, 2H), 7.87-7.96 (m, 2H), 8.14 (d, J=1 Hz, 1H); MS (DCI/NH3) m/z 313 (M+H)+; Anal. C18H20N2OS.HCl.0.3H2O: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | thianaphthene-2-carboxylic acid | C1=CC=C2C(=C1)C=C(S2)C(=O)O | C9H6O2S
reactant | NH3 | N | H3N
product | Benzo[b]thiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C2=CC3=C(S2)C=CC=C3 | InChI=1S/C18H20N2OS.ClH/c21-18(16-7-12-3-1-2-4-15(12)22-16)19-17-13-5-11-6-14(17)10-20(8-11)9-13;/h1-4,7,11,13-14,17H,5-6,8-10H2,(H,19,21);1H/t11?,13?,14?,17-;
